US06559161B1
1,4-Dimethoxy-9-trimethylsilylethynylacridine
To a solution of 1,4-dimethoxy-9-trifluoromethylsulfonyloxyacridine (prepared as described in Preparation 1 above) (1.2 g, 3.1 mmol) in dry tetrahydrofuran (10 ml) under N2 were successively added tetrakis(triphenylphosphine) palladium (0), (0.3 g, 0.3 mmol), N,N-diisopropylethylamine (1.6 ml, 9.3 mmol) and trimethylsilylacetylene (1.3 ml, 9.3 mmol). The mixture was stirred at reflux for 5 h. After this time the solvent was evaporated and the residue was dissolved in CH2Cl2 and washed with water. The organic solution was dried an evaporated affording a residue which was purified by column chromatography. Elution with hexane/CH2Cl2 (1:1) gave the title compound (1.0 g, 98%) as a red solid; m.p. 110-111° C. (CH2Cl2). IR (film): ν/cm−1=2810 (w, C≡C), 1608 (s, Ar), 1527 (m, Ar), 1468 (s, Ar); 1H NMR (200 MHz, CDCl3): δH/ppm=0.41 (s, 9H, 3×CH3), 3.99 (s, 3H, OCH3), 4.11 (s, 3H, OCH3), 6.75 (d, J=8.4 Hz, 1H, H-2), 6.93 (d, J=8.4 Hz, 1H, H-3), 7.63 (dd, J=8.0 and 7.2 Hz, 1H, H-7), 7.78 (dd, J=8.4 and 7.2 Hz, 1H, H-6), 8.35 (d, J=8.4 Hz, 1H, H-5), 8.64 (d, J=8.0 Hz, 1H, H-8); 13C NMR (50.3 MHz, CDCl3): δC=0.0 (q, CH3), 55.8 (q, OCH3), 56.1 (q, OCH3), 101.5 (s, ≡C—Si), 103.9 (d, C-2), 105.7 (d, C-3), 111.8 (s, ≡C), 120.5 (s, C-9a), 126.4 (d, C-7), 126.9 (d, C-6), 127.5 (s, C-9), 129.9 (d, C-5), 130.0 (s, C-8a), 130.3 (d, C-8), 142.1 (s, C-4a), 147.0 (s, C-1), 149.4 (s, C-4 and C-10a); MS (EI); m/z (%)=336 [M+1] (10), 335 [M+] (36), 320 (100), 306 (13), 290 (10), 262 (14); HRMS: calcd. for C20H21NO2Si 335.1341; found 335.1336; Elemental analysis: C20H21NO2Si.0.125CH2Cl2 (346.10): calcd. C 69.84, H, 6.19, N, 4.05; found C 69.70, H 6.42, N 4.09.

reactant | 1,4-dimethoxy-9-trifluoromethylsulfonyloxyacridine | 3.1 mmol, 1.2 g | COC1=CC=C(C2=NC3=CC=CC=C3C(=C12)OS(=O)(=O)C(F)(F)F)OC | C16H12F3NO5S
reactant | N,N-diisopropylethylamine | 9.3 mmol, 1.6 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | trimethylsilylacetylene | 9.3 mmol, 1.3 ml | C[Si](C)(C)C#C | C5H10Si
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
catalyst | tetrakis(triphenylphosphine) palladium (0) | 0.3 mmol, 0.3 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 1,4-Dimethoxy-9-trimethylsilylethynylacridine | 1.0 g, 98% | COC1=CC=C(C2=NC3=CC=CC=C3C(=C12)C#C[Si](C)(C)C)OC | C20H21NO2Si
